US06645968B2
N″-cyano-N-(3,5-difluorophenyl)guanidine
3,5-Difluoroaniline and sodium dicyanamide were procesed as described in Example 71A to provide the desired compound.

reactant | 3,5-Difluoroaniline | FC=1C=C(N)C=C(C1)F | C6H5F2N
reactant | sodium dicyanamide | [N-](C#N)C#N.[Na+]
product | N″-cyano-N-(3,5-difluorophenyl)guanidine | C(#N)N=C(NC1=CC(=CC(=C1)F)F)N | C8H6F2N4
